US09108983B2
5-Bromo-2-chloro-pyrimidine (5.0 g, 25 mmol) is dissolved in ethanol (55 mL) and sodium ethylate (1.81 g, 26.6 mmol) is added in portions. The reaction mixture is stirred for 15 hours at ambient temperature. When the reaction is complete, the solvent is evaporated off, water (200 mL) is added, and then the reaction mixture is extracted with dichloromethane (2×100 mL). The organic phase is dried over Na2SO4, and then evaporated to dryness to yield 5-bromo-2-ethoxy-pyrimidine.

reactant | 5-Bromo-2-chloro-pyrimidine | 25 mmol, 5.0 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | sodium ethylate | 26.6 mmol, 1.81 g | CC[O-].[Na+]
solvent | ethanol | 55 mL | C(C)O | C2H6O
product | 5-bromo-2-ethoxy-pyrimidine | BrC=1C=NC(=NC1)OCC | C6H7BrN2O
